US05484556
4-(Iodomethyl)benzyltri-n-butylammonium iodide (18).
To a mixture of α,α'-dichloro-p-xylene (50 g, 28.6 mmol) and sodium iodide (8.6 g, 57 mmol) in acetone (100 mL) was added tri-n-butylamine (3.7 g, 20.0 mmol). The reaction mixture was stirred at room temperature under argon for several days after which time TLC examination showed completion of the reaction. The reaction mixture was filtered and the solvent was removed under reduced pressure to give an oily residue. The residue was washed with pentane several times and dried to give a yellow solid. The product was used without further purification.

reactant | α,α'-dichloro-p-xylene | 28.6 mmol, 50 g | ClCC1=CC=C(C=C1)CCl | C8H8Cl2
reactant | sodium iodide | 57 mmol, 8.6 g | [I-].[Na+]
reactant | tri-n-butylamine | 20.0 mmol, 3.7 g | C(CCC)N(CCCC)CCCC | C12H27N
solvent | acetone | 100 mL | CC(=O)C | C3H6O
product | 4-(Iodomethyl)benzyltri-n-butylammonium iodide | [I-].ICC1=CC=C(C[N+](CCCC)(CCCC)CCCC)C=C1 | InChI=1S/C20H35IN.HI/c1-4-7-14-22(15-8-5-2,16-9-6-3)18-20-12-10-19(17-21)11-13-20;/h10-13H,4-9,14-18H2,1-3H3;1H/q+1;/p-1
